US08383652B2
To a solution of 10.8 g (36.1 mmol) of ethyl (Z)-3-(4-bromophenyl)-2-ethoxyacrylate, 108 mL (217 mmol) in 120 mL of toluene, aqueous 2 M sodium carbonate solution and 1.5 g (1.8 mmol) of dichloro[11′-bis(diphenylphosphino)ferrocene]palladium are added. The reaction medium is stirred and 9.25 g (39.7 mmol) of methyl[3-(4,4,5,5-tetramethyl[1.3.2]dioxaborolan-2-yl)phenyl]amine are then added. After stirring at 80° C. for 2 hours, the reaction medium is hydrolyzed and diluted with ethyl acetate. After separation of the phases by settling, the ethyl acetate phase is washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a 90/10 and then 80/20 heptane/ethyl acetate mixture. 10.5 g (94%) of ethyl (Z)-2-ethoxy-3-(3′-methylaminobiphenyl-4-yl)acrylate are obtained in the form of a yellow oil. After taking up the product in pentane, 9.5 g (85%) of ethyl (Z)-2-ethoxy-3-(3′-methylaminobiphenyl-4-yl)acrylate are obtained in the form of a pale yellow solid with a melting point of 52° C.

reactant | ethyl (Z)-3-(4-bromophenyl)-2-ethoxyacrylate | 36.1 mmol, 10.8 g | BrC1=CC=C(C=C1)\C=C(\C(=O)OCC)/OCC | C13H15BrO3
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl[3-(4,4,5,5-tetramethyl[1.3.2]dioxaborolan-2-yl)phenyl]amine | 39.7 mmol, 9.25 g | CNC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (Z)-2-ethoxy-3-(3′-methylaminobiphenyl-4-yl)acrylate | 10.5 g, 94% | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)NC | C20H23NO3
